US07691882B2
(6-Amino-5-ethynyl-pyridin-2-yl)-methanol
To a mixture of 2-amino-6-hydroxymethyl-pyridine-3-carbaldehyde (16 mg, 0.11 mmol) described in Manufacturing Example 169-1-1 and methanol (1.5 mL) were added dimethyl (1-diazo-2-oxopropyl)phosphonate (30 mg, 0.16 mmol) and potassium carbonate (23 mg, 0.17 mmol) at −10° C., which was stirred for 10 minutes at 0° C., and then for another 6 hours at room temperature. A saturated ammonium chloride aqueous solution and saturated aqueous sodium chloride were added to the reaction mixture at the same temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue thus obtained was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (13 mg, 47%, purity: 57%).

reactant | 2-amino-6-hydroxymethyl-pyridine-3-carbaldehyde | 0.11 mmol, 16 mg | NC1=NC(=CC=C1C=O)CO | C7H8N2O2
reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 0.16 mmol, 30 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
reactant | potassium carbonate | 0.17 mmol, 23 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
product | (6-Amino-5-ethynyl-pyridin-2-yl)-methanol | 13 mg, 47% | NC1=C(C=CC(=N1)CO)C#C | C8H8N2O
